** sch_path: /home/ttuser/Documents/ttsky-analog-equalizer/xschem/CTLE_WITH_LATCH.sch
**.subckt CTLE_WITH_LATCH
V3 Vdd GND 1.8
V1 Vss GND 0
R1 vin+_bad vin+ 500 m=1
R2 vin-_bad vin- 500 m=1
C1 Vss vin+_bad 1p m=1
C2 vin-_bad Vss 1p m=1
V2 net1 GND PWL(0 1.8 2n 1.8 2.05n 0 3n 0 3.05n 1.8 4n 1.8 4.05n 0 6n 0 6.05n 1.8 8n 1.8)
V4 net7 GND PWL(0 0 2n 0 2.05n 1.8 3n 1.8 3.05n 0 4n 0 4.05n 1.8 6n 1.8 6.05n 0 8n 0)
V5 net2 GND 0.9
V6 vin+ net1 TRNOISE(10m 50p 0 0)
V7 vin- net7 TRNOISE(10m 50p 0 0)
x1 vout+_temp vout-_temp vin+_bad vin-_bad Vdd Vss vbias CTLE
R8 vbias net2 500 m=1
C5 vbias Vss 1p m=1
V8 clk- GND PULSE(1.8 0 0 20p 20p 0.98n 2n)
V9 clk+ GND PULSE(0 1.8 0 20p 20p 0.98n 2n)
x3 v1t net4 vout+_temp vout-_temp Vdd Vss clk+ clk- vbias d_latch
x4 v0t net3 vout+_temp vout-_temp Vdd Vss clk- clk+ vbias d_latch
x2 vbias net3 v0t net5 Vdd Vss D2S_amp
x5 vbias net4 v1t net6 Vdd Vss D2S_amp
R3 net8 vout0 500 m=1
R4 net9 vout1 500 m=1
x6 Vdd Vss net5 net8 inverter_chain
x7 Vdd Vss net6 net9 inverter_chain
**** begin user architecture code



*.lib /home/ttuser/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.options method=gear reltol=0.001 abstol=1e-3
.op
.control
  tran 10p 20n
  write CTLE_WITH_LATCH.raw
.endc




** opencircuitdesign pdks install
.lib /home/ttuser/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt


**** end user architecture code
**.ends

* expanding   symbol:  CTLE.sym # of pins=7
** sym_path: /home/ttuser/Documents/ttsky-analog-equalizer/xschem/CTLE.sym
** sch_path: /home/ttuser/Documents/ttsky-analog-equalizer/xschem/CTLE.sch
.subckt CTLE vout+ vout- vin+ vin- VDD VSS vbias
*.iopin VDD
*.iopin VSS
*.ipin vin+
*.ipin vin-
*.ipin vbias
*.opin vout-
*.opin vout+
XM1 vout+ vin+ net1 VSS sky130_fd_pr__nfet_01v8 L=0.3 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net3 vbias VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 vout- vin- net2 VSS sky130_fd_pr__nfet_01v8 L=0.3 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XR1 vout+ VDD VSS sky130_fd_pr__res_high_po W=1 L=16 mult=1 m=1
XR2 vout- VDD VSS sky130_fd_pr__res_high_po W=1 L=16 mult=1 m=1
XR3 net1 net3 VSS sky130_fd_pr__res_high_po W=1 L=0.69 mult=1 m=1
XC2 net1 net3 sky130_fd_pr__cap_mim_m3_1 W=13 L=13 MF=1 m=1
XR4 net2 net3 VSS sky130_fd_pr__res_high_po W=1 L=0.69 mult=1 m=1
XC1 net2 net3 sky130_fd_pr__cap_mim_m3_1 W=13 L=13 MF=1 m=1
.ends


* expanding   symbol:  d_latch.sym # of pins=9
** sym_path: /home/ttuser/Documents/ttsky-analog-equalizer/xschem/d_latch.sym
** sch_path: /home/ttuser/Documents/ttsky-analog-equalizer/xschem/d_latch.sch
.subckt d_latch vout+ vout- vin+ vin- VDD VSS clk+ clk- vbias
*.iopin VDD
*.iopin VSS
*.ipin vin+
*.ipin clk-
*.ipin vbias
*.opin vout+
*.ipin clk+
*.opin vout-
*.ipin vin-
XM1 vout- vin+ net1 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net2 vbias VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 vout+ vin- net1 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XR1 vout- VDD VSS sky130_fd_pr__res_high_po W=1 L=4 mult=1 m=1
XR2 vout+ VDD VSS sky130_fd_pr__res_high_po W=1 L=4 mult=1 m=1
XM3 vout+ vout- net3 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 vout- vout+ net3 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net1 clk+ net2 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 net3 clk- net2 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  D2S_amp.sym # of pins=6
** sym_path: /home/ttuser/Documents/ttsky-analog-equalizer/xschem/D2S_amp.sym
** sch_path: /home/ttuser/Documents/ttsky-analog-equalizer/xschem/D2S_amp.sch
.subckt D2S_amp vbias vin- vin+ final_out VDD VSS
*.iopin VDD
*.iopin VSS
*.opin final_out
*.ipin vin+
*.ipin vin-
*.ipin vbias
XM1 net2 vin+ net1 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 final_out vin- net1 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net2 net2 VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 final_out net2 VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 vbias VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  inverter_chain.sym # of pins=4
** sym_path: /home/ttuser/Documents/ttsky-analog-equalizer/xschem/inverter_chain.sym
** sch_path: /home/ttuser/Documents/ttsky-analog-equalizer/xschem/inverter_chain.sch
.subckt inverter_chain VDD VSS weak_in STRONG_OUT
*.iopin VDD
*.iopin VSS
*.ipin weak_in
*.opin STRONG_OUT
XM1 net1 weak_in VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net1 weak_in VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net2 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=6 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net2 net1 VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=3 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 STRONG_OUT net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=16 nf=8 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 STRONG_OUT net2 VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=8 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
